US05962455
A solution of 1-(3-aminophenyl)-1-(4-phenylpiperazin-1-yl)-4-methyl-cyclohexane (cis isomer, 116 mg, 0.332 mmol) and triethylamine (116 μL, 0.83 mmol) in dry CH2Cl2 (7 mL) was brought to 0° C. using an ice bath. Phosgene (1.93 M in toluene, 181 μL) was added dropwise and the resulting mixture was stirred at 0° C., under a dry N2 atmosphere, for 30 minutes. 6-aminoquinoline (53 mg, 0.365 mmol) was added as a solid and the reaction was allowed to come to room temperature. The reaction was stirred overnight, diluted with an equal volume of CH2Cl2, washed with H2O, dried (Na2SO4) and concentrated to give the crude urea. Silica gel chromatography (eluent: 5% CH3OH/CH2Cl2) yielded pure N-[3-[4-methyl-1-(4-phenyl-1-piperazinyl)cyclohexyl]phenyl]-N'-6-quinolinyl-urea (cis isomer) as an off-white solid. The HCI salt was prepared by adding excess saturated EtOAc/HCI solution to the free base in dry MeOH. Concentration of the homogeneous solution yielded a white solid which was washed with EtOAc. m=185-187° C.

reactant | 1-(3-aminophenyl)-1-(4-phenylpiperazin-1-yl)-4-methyl-cyclohexane | 0.332 mmol, 116 mg | NC=1C=C(C=CC1)C1(CCC(CC1)C)N1CCN(CC1)C1=CC=CC=C1 | C23H31N3
reactant | triethylamine | 0.83 mmol, 116 μL | C(C)N(CC)CC | C6H15N
reactant | Phosgene | 1.93 M, 181 μL | C(=O)(Cl)Cl | CCl2O
reactant | 6-aminoquinoline | 0.365 mmol, 53 mg | NC=1C=C2C=CC=NC2=CC1 | C9H8N2
solvent | CH2Cl2 | 7 mL | C(Cl)Cl | CH2Cl2
solvent | CH3OH CH2Cl2 | CO.C(Cl)Cl
product | N-[3-[4-methyl-1-(4-phenyl-1-piperazinyl)cyclohexyl]phenyl]-N'-6-quinolinyl-urea | CC1CCC(CC1)(N1CCN(CC1)C1=CC=CC=C1)C=1C=C(C=CC1)NC(=O)NC=1C=C2C=CC=NC2=CC1 | C33H37N5O
